US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(4-fluorophenyl)imidazolidin-2-one
The compound was synthesized as hydrochloride salt starting from 5-aminobenzimidazole (0.665 g, 5 mmol), di(1H-imidazol-1-yl)methanone (0.891 g, 5.5 mmol), TEA (2.09 mL, 15 mmol), aminomethyl-(4-fluorophenyl)ketone hydrochloride (0.948 g, 5 mmol), TEA (1.39 mL, 10 mmol), PdC (10%, 0.02 g) as described in method 1.

reactant | 5-aminobenzimidazole | 5 mmol, 0.665 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | di(1H-imidazol-1-yl)methanone | 5.5 mmol, 0.891 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | aminomethyl-(4-fluorophenyl)ketone hydrochloride | 5 mmol, 0.948 g | Cl.NCC(=O)C1=CC=C(C=C1)F
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(4-fluorophenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC=C(C=C2)F)=O | C16H13FN4O
